US06939928B1
(2) Synthesis of 3-tert-butyl-1,6,6-trimethylfulvene
To a solution of 13.0 g (95.6 mmol) of 1-tert-butyl-3-methylcyclopentadiene in 130 ml of dehydrated methanol, 55.2 g (950.4 mmol) of dehydrated acetone was dropwise added in a nitrogen atmosphere at 0° C. with ice cooling, and 68.0 g (956.1 mmol) of pyrrolidine was further dropwise added, followed by stirring at room temperature for 4 days. After the reaction solution was diluted with 400 ml of diethyl ether, 400 ml of water was added. The organic phase was separated, washed with a 0.5N hydrochloric acid aqueous solution (150 ml×4), water (200 ml×3) and a saturated saline solution (150 ml), and then dried over anhydrous magnesium sulfate. The drying agent was filtered, and from the filtrate the solvent was distilled off to obtain a liquid. The liquid was subjected to vacuum distillation (70-80° C./0.1 mmHg) to obtain 10.5 g of a yellow liquid. The analyzed values are given below.

reactant | 1-tert-butyl-3-methylcyclopentadiene | 95.6 mmol, 13.0 g | C(C)(C)(C)C1=CC(=CC1)C | C10H16
reactant | acetone | 950.4 mmol, 55.2 g | CC(=O)C | C3H6O
reactant | pyrrolidine | 956.1 mmol, 68.0 g | N1CCCC1 | C4H9N
reactant | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | methanol | 130 ml | CO | CH4O
solvent | water | 400 ml | O | H2O
product | 3-tert-butyl-1,6,6-trimethylfulvene | 10.5 g | C(C)(C)(C)C=1C=C(C(C1)=C(C)C)C | C13H20
